US09212120B2
[1-(2-Oxo-propyl)-cyclopropyl]-acetic acid
To a solution of 3.6 g crude {1-[(methoxy-methyl-carbamoyl)-methyl]-cyclopropyl}-acetic acid (18 mmole) in 54 ml of THF are added 24.5 ml of methyllithium (1.6 M solution in diethyl ether, 39.2 mmole, 2.2 eq) at <−75° C. Stirring is continued for 2 hours, then the mixture is quenched by addition of 2 ml of methanol and warmed to room temperature. 54 ml of water are added and the phases are separated. The aqueous product phase is washed with 27 ml of methyl tert-butyl ether, acidified to pH 2.5 by addition of conc. HCl and extracted three times with 27 ml ethyl acetate each. The combined organic phases are concentrated to dryness and the residue is directly used in the next step (esterification to [1-(2-oxo-propyl)-cyclopropyl]-acetic acid methyl ester).

reactant | {1-[(methoxy-methyl-carbamoyl)-methyl]-cyclopropyl}-acetic acid | 18 mmole, 3.6 g | CON(C(=O)CC1(CC1)CC(=O)O)C | C9H15NO4
reactant | methyllithium | 39.2 mmole, 1.6 M, 24.5 ml, 2.2 eq | C[Li]
solvent | THF | 54 ml | C1CCOC1 | C4H8O
product | [1-(2-Oxo-propyl)-cyclopropyl]-acetic acid | O=C(CC1(CC1)CC(=O)O)C | C8H12O3
